US08445674B2
A) 2-(3,4-Bis-trifluoromethyl-phenylamino)-propionic acid ethyl ester
In analogy to intermediate 40B, 3,4-bis(trifluoromethyl)aniline and ethyl 2-bromopropionate with 2,6-lutidine were heated for 20 h at 82° C., diluted with acetonitrile and treated with 1 equivalent of ethyl 2-bromopropionate and 2,6-lutidine and refluxed for 2 days, treated again with 1 equivalent of ethyl 2-bromopropionate and 2,6-lutidine and continued to reflux for 2 days. Workup and purification by flash silica gel column (n-heptane/ethyl acetate 9:1 to 2:1) yielded 49% of the titled compound as yellow oil. MS: 328.08 (M−H−).

reactant | 3,4-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=CC1C(F)(F)F)(F)F | C8H5F6N
reactant | ethyl 2-bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
reactant | 2,6-lutidine | N1=C(C=CC=C1C)C | C7H9N
reactant | ethyl 2-bromopropionate | 1 equivalent | BrC(C(=O)OCC)C | C5H9BrO2
reactant | ethyl 2-bromopropionate | 1 equivalent | BrC(C(=O)OCC)C | C5H9BrO2
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(3,4-Bis-trifluoromethyl-phenylamino)-propionic acid ethyl ester | 49% | C(C)OC(C(C)NC1=CC(=C(C=C1)C(F)(F)F)C(F)(F)F)=O | C13H13F6NO2
